US07700593B2
Step 3: Synthesis of 3-(3-Amino-[1,2,4]triazolo[4,3-a]pyridin-7-yl)-N-cyclopropyl-4-methylbenzamide
A mixture of 7-bromo-[1,2,4]triazolo[4,3-a]pyridin-3-amine (0.202 g, 0.95 mmol), N-cyclopropyl-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide (0.358 g, 1.2 mmol), sodium carbonate (0.439 g, 4.1 mmol) and trans-dichlorobis(triphenyl-phosphine)palladium (II) (0.057 g, 0.081 mmol) in 7 μL of DME/3 mL of H2O/2 mL of EtOH was heated at 80° C. After 2.5 h, the reaction mixture was cooled to 25° C., evaporated onto silica gel and purified by flash column chromatography eluting with 2M NH3 in MeOH:CH2Cl2 (0:1→3:97) to give the title compound as a tan amorphous solid. MS m/z: 308.1 [M+1].

reactant | 7-bromo-[1,2,4]triazolo[4,3-a]pyridin-3-amine | 0.95 mmol, 0.202 g | BrC1=CC=2N(C=C1)C(=NN2)N | C6H5BrN4
reactant | N-cyclopropyl-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | 1.2 mmol, 0.358 g | C1(CC1)NC(C1=CC(=C(C=C1)C)B1OC(C(O1)(C)C)(C)C)=O | C17H24BNO3
reactant | sodium carbonate | 4.1 mmol, 0.439 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | H2O | 2 mL | O | H2O
solvent | DME | 7 μL | COCCOC | C4H10O2
catalyst | trans-dichlorobis(triphenyl-phosphine)palladium (II) | 0.081 mmol, 0.057 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | EtOH | CCO | C2H6O
product | 3-(3-Amino-[1,2,4]triazolo[4,3-a]pyridin-7-yl)-N-cyclopropyl-4-methylbenzamide | NC1=NN=C2N1C=CC(=C2)C=2C=C(C(=O)NC1CC1)C=CC2C | C17H17N5O
